* NE5532 MACROMODEL (Texas Instruments / Signetics topology)
* Node connections:
*                non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT NE5532   1  2  3  4  5
C1   11 12 4.000E-12
C2    6  7 16.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.714E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 1.028E-3
GCM   0  6 10 99 1.028E-9
ISS   3 10 DC 700.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 972.8
RD2   4 12 972.8
RO1   8  5 50
RO2   7 99 25
RP    3  4 4.000E3
RSS  10 99 285.7E3
VB    9  0 DC 0
VC    3 53 DC 1.600
VE   54  4 DC 1.600
VLIM  7  8 DC 0
VLP  91  0 DC 38
VLN   0 92 DC 38
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(BETA=1.250E-3 VTO=-1 BETA=1.250E-3)
.ENDS NE5532
